US08420632B2
8.6 ml (62 mmol) of triethylamine are added to a solution of 5 g (28 mmol) of bis(2-chloroethyl)amine hydrochloride in 60 ml of dichloromethane. The triethylammonium chloride salts precipitate and are filtered off. 2.4 ml (31 mmol) of methylsulfonyl chloride are then added to the filtrate obtained, and the reaction medium is stirred at ambient temperature for 3 h. After the addition of water, the product is extracted with dichloromethane. The organic phase is washed with water, dried over magnesium sulfate, filtered and concentrated. 5.8 g (94%) of N,N-bis(2-chloroethyl)methanesulfonamide are obtained in the form of a beige solid.

reactant | triethylamine | 62 mmol, 8.6 ml | C(C)N(CC)CC | C6H15N
reactant | bis(2-chloroethyl)amine hydrochloride | 28 mmol, 5 g | Cl.ClCCNCCCl
reactant | methylsulfonyl chloride | 31 mmol, 2.4 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | water | O | H2O
solvent | dichloromethane | 60 ml | ClCCl | CH2Cl2
product | N,N-bis(2-chloroethyl)methanesulfonamide | 5.8 g, 94% | ClCCN(S(=O)(=O)C)CCCl | C5H11Cl2NO2S
